*****************************************************************
* NXP BUK7Y3R5-40E
*
* Polarity N-Channel
* Ratings 40V/3.500000E-003OHMS/100A
*
* Date Created Mon Jun 01 08:29:58 2015
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y3R5-40E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.7e-10
RLS2 SOURCE 8 1.18123883774976
RLS1 8 7 0.00017

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00125468461693087 TC=0.00425594587814606,2.28561865948482E-05
RBD 9 4 0.000702066711395193 TC=0.00425594587814606,2.28561865948482E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 2.38e-09
RG 1 2 2.36

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -0.5	1597.66
+ -0.2	1489.95
+ -0.1	1487.06
+ 0	1347.2285
+ 0.1	1288.118
+ 0.2	1106.561
+ 0.5	863.876
+ 1	664.201
+ 2	543.448
+ 3	490.007
+ 4	457.126
+ 5	434.099
+ 6	416.667
+ 8	391.84
+ 10	374.824
+ 12	361.982
+ 15	346.939
+ 20	327.574
+ 25	312.999
+ 30	301.794



.MODEL MINT NMOS(Vto=4.53086235143341 Kp=1.703840e+002 Nfs=1520000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=9.39966326152771e-13
+ N=1 M=0.64 VJ=0.52 Fc=0.5 Cjo=2.053527e-09 Tt=1.516e-08)

.ENDS

